US07968572B2
Sodium 3-hydroxy-2-(hydroxymethyl)-2-methylpropanoate
To a solution of 2,2-bis(hydroxymethyl)propionic acid (2.21 g) in ethanol (30 mL) was added 5N aqueous solution of sodium hydroxide (3.30 mL) and the mixture was stirred at room temperature for 5 minutes. The reaction mixture was concentrated to give the title compound.

reactant | 2,2-bis(hydroxymethyl)propionic acid | 2.21 g | OCC(C(=O)O)(C)CO | C5H10O4
reactant | sodium hydroxide | 3.30 mL | [OH-].[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | Sodium 3-hydroxy-2-(hydroxymethyl)-2-methylpropanoate | OCC(C(=O)[O-])(C)CO.[Na+] | InChI=1S/C5H10O4.Na/c1-5(2-6,3-7)4(8)9;/h6-7H,2-3H2,1H3,(H,8,9);/q;+1/p-1
